US05650422
2-Hydroxymethyl-4-chlorosaccharin was prepared in the same manner as 2-hydroxymethyl-4-methylsaccharin, in Example 1, from 4-chlorosaccharin (1.00 g; 4.60 mmol) and formalin (37%; 3.22 ml; excess). All attempts to crystallize the viscous oily product resulted in decomposition to the starting material, and the product was thus used in the next step without characterization.

reactant | 2-hydroxymethyl-4-methylsaccharin | OCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C | C9H9NO4S
reactant | 4-chlorosaccharin | 4.60 mmol, 1.00 g | ClC1=C2C(NS(=O)(=O)C2=CC=C1)=O | C7H4ClNO3S
reactant | formalin | 3.22 ml | C=O | CH2O
product | 2-Hydroxymethyl-4-chlorosaccharin | OCN1S(=O)(=O)C2=CC=CC(=C2C1=O)Cl | C8H6ClNO4S
